US06355798B1
d) C-(1-Methyl-1H-1,2,4-triazol-3-yl)methylamine Hydrochloride
A solution of 3-chloromethyl-1-methyl-1H-1,2,4-triazole (600 mg, 4.6 mmol) in aqueous ammonia (5 ml) was stirred and heated at 80° C. for 16 hours in a sealed tube. Upon cooling the volatiles were removed in vacuo (azeotroping with ethanol) to give the title compound (600 mg, 92%) as a colourless solid after drying under high vacuum. 1H NMR (250 MHz, d6-DMSO) δ 3.88 (3H, s), 4.04 (2H, s), 8.3 (3H, br s), 8.58 (1H, s).

reactant | 3-chloromethyl-1-methyl-1H-1,2,4-triazole | 4.6 mmol, 600 mg | ClCC1=NN(C=N1)C | C4H6ClN3
reactant | ammonia | 5 ml | N | H3N
product | C-(1-Methyl-1H-1,2,4-triazol-3-yl)methylamine Hydrochloride | 600 mg, 92% | Cl.CN1N=C(N=C1)CN | InChI=1S/C4H8N4.ClH/c1-8-3-6-4(2-5)7-8;/h3H,2,5H2,1H3;1H
